US08614201B2
Intermediate 24: 2-(4-Trifluoromethyl-phenyl)-isonicotinonitrile
To a suspension of 2-chloro-4-pyridinecarbonitrile (0.50 g, 3.61 mmol), Cs2CO3 (1.70 g, 7.22 mmol) and 4-(trifluoromethyl)phenylboronic acid (0.82 g, 3.61 mmol) in dioxane (18 mL) was added palladium acetate (0.02 g, 0.07 mmol) and 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (0.07 g, 0.14 mmol). The reaction vessel was sealed and heated to 100° C. for 4 hours and cooled to rt. The reaction mixture was filtered through a pad of celite, concentrated and purified by FCC (0%-100% EtOAc in hexane) to provide the desired product (0.69 g, 78%). MS (ESI): mass calcd. for C13H7F3N2, 248.2; m/z found 249.1 [M+H]+. 1H NMR (400 MHz, DMSO) δ 9.00-8.92 (m, 1H), 8.63-8.57 (m, 1H), 8.38 (d, J=8.1, 2H), 7.94-7.85 (m, 3H).

reactant | 2-chloro-4-pyridinecarbonitrile | 3.61 mmol, 0.50 g | ClC1=NC=CC(=C1)C#N | C6H3ClN2
reactant | Cs2CO3 | 7.22 mmol, 1.70 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-(trifluoromethyl)phenylboronic acid | 3.61 mmol, 0.82 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
solvent | dioxane | 18 mL | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.07 mmol, 0.02 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 0.14 mmol, 0.07 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
product | 2-(4-Trifluoromethyl-phenyl)-isonicotinonitrile | 0.69 g, 78% | FC(C1=CC=C(C=C1)C=1C=C(C#N)C=CN1)(F)F | C13H7F3N2
